US06114568
To a solution of 1-[4-(4-fluoro-phenoxy) benzenesulfonylamino]-cyclopentanecarboxylic acid (10.22 g, 27 mmole) in 100 mL methylene chloride at -78□ C. was condensed 40 mL of isobutylene. Concentrated sulfuric acid (0.3 mL) was added and the mixture allowed to warm to ambient temperature and stirred for 22 hours. The mixture was then washed with 3×50 mL 2N NaOH and the organic layer dried over magnesium sulfate and evaporated to give 11.17 g (95%) of 1-[4-(4-fluoro-phenoxy)-benzenesulfonylamino]-cyclopentanecarboxylic acid tert-butyl ester. 1H NMR (CDCl3) □ 7.74-7.77 (m, 2H), 6.85-7.13 (m, 6H), 4.95 (s, 1H), 1.92-2.02 (m, 2H), 1.78-1.88 (m, 2H), 1.50-1.65 (m, 4H), 1.35 (s, 9H).

reactant | 1-[4-(4-fluoro-phenoxy) benzenesulfonylamino]-cyclopentanecarboxylic acid | 27 mmole, 10.22 g | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)NC2(CCCC2)C(=O)O)C=C1 | C18H18FNO5S
reactant | isobutylene | 40 mL | CC(C)=C | C4H8
reactant | sulfuric acid | 0.3 mL | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-fluoro-phenoxy)-benzenesulfonylamino]-cyclopentanecarboxylic acid tert-butyl ester | 11.17 g, 95% | C(C)(C)(C)OC(=O)C1(CCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C22H26FNO5S
